US07902367B2
Step 76b) 3-[(Benzothiazol-2-yl)oxymethyl]piperidine
Trifluoroacetic acid (2 mL) was added to 1-tert-butoxycarbonyl-3-[(benzothiazol-2-yl)oxymethyl]piperidine (460 mg, 1.32 mmol) in dichloromethane (2 mL). The mixture was stirred at room temperature for 3 hours. Subsequently, the solvent was evaporated and water was added to the residue, followed by a 1 mol/L aqueous sodium hydroxide solution to make the mixture basic. The mixture was then extracted with ethyl acetate and the extract washed with brine. The washed product was dried over magnesium sulfate and the solvent was evaporated to give 297 mg (91%) of the desired compound as a colorless oil.

reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-tert-butoxycarbonyl-3-[(benzothiazol-2-yl)oxymethyl]piperidine | 1.32 mmol, 460 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)COC=1SC2=C(N1)C=CC=C2 | C18H24N2O3S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-[(Benzothiazol-2-yl)oxymethyl]piperidine | 297 mg, 91% | S1C(=NC2=C1C=CC=C2)OCC2CNCCC2 | C13H16N2OS
